US09359375B2
A mixture of (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-2-cyclopropylacetamide (87 mg, 0.278 mmol), 5-amino-3-methylisothiazole hydrochloride (63 mg, 0.418 mmol), K2CO3 (120 mg, 0.869 mmol), BINAP (40 mg, 0.064 mmol) and Pd(OAc)2 (20 mg, 0.089 mmol) in dioxane (2 mL) was degassed with argon, then was stirred at 120 C for 18 h. The mixture was concentrated in vacuo. The residue was purified by HPLC to give (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-2-cyclopropylacetamide (38 mg).

reactant | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-2-cyclopropylacetamide | 0.278 mmol, 87 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)C1CC1)F)C#N | C12H11BrFN3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 0.418 mmol, 63 mg | Cl.NC1=CC(=NS1)C
reactant | K2CO3 | 0.869 mmol, 120 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | BINAP | 0.064 mmol, 40 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.089 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-2-cyclopropylacetamide | 38 mg | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)C1CC1)F | C16H16FN5OS
